US07265148B2
Synthesis of 1-benzyl-3-(4-tert-butylphenyl)-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylic acid
The title compound was prepared from ethyl 5-amino-1-benzyl-3-(4-tert-butylphenyl)-1H-indole-2-carboxylate followed the procedures of Example 1 Step 3 and Step 4 as a beige solid: 1H NMR (DMSO-d6) δ 1.35 (s, 9 H), 5.86 (s, 2 H), 6.21 (s, 2 H), 7.05-7.85 (m, 14 H); MS (ESI) m/z 447 ([M-H]−); HRMS calcd for C30H29N2O2: 449.2230; found (ESI+) 449.2225; Anal. calcd for C30 H28N2O2.0.2 H2O: C, 79.69; H, 6.33; N, 6.20. Found: C, 79.70; H, 6.18; N, 6.20.

reactant | ethyl 5-amino-1-benzyl-3-(4-tert-butylphenyl)-1H-indole-2-carboxylate | NC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C(=O)OCC)C1=CC=C(C=C1)C(C)(C)C | C28H30N2O2
solvent | H2O | O | H2O
product | 1-benzyl-3-(4-tert-butylphenyl)-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)N1C=CC=C1)C1=CC=C(C=C1)C(C)(C)C)C(=O)O | C30H28N2O2
